US09144239B2
Step 7: Preparation of (3R,7S,8S,9R)-3-amino-7,8-bis(benzyloxy)-9-methyl-1,5-dioxonan-2-one hydrochloride (compound 124)
To a solution of tert-butyl ((3R,7S,8S,9R)-7,8-bis(benzyloxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (104.0 mg, 0.214 mmol) in DCM (1.20 mL) was added a 4.0 M solution of HCl in dioxane (1.07 mL, 4.28 mmol) and the reaction was stirred at room temperature for 2 h. The solvent was removed under vacuum and the residue was dried under high vacuum to yield the title compound as an off-white oil (85.0 mg, 94%): IR (neat) 3365, 1636, 1235, 1063 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.76 (bs, 2H), 7.35-7.20 (m, 10H), 5.30 (s, 1H), 4.69-4.45 (m, 5H), 4.20 (d, J=9.1 Hz, 2H), 3.89-3.75 (m, 2H), 3.59 (d, J=11.1 Hz, 1H), 3.47 (d, J=7.1 Hz, 1H), 1.32 (d, J=6.8 Hz, 3H); HRMS-ESI (m/z) [M]+ calcd for C22H27NO5, 385.1889; found, 385.1890.

reactant | tert-butyl ((3R,7S,8S,9R)-7,8-bis(benzyloxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 0.214 mmol, 104.0 mg | C(C1=CC=CC=C1)O[C@H]1COC[C@H](C(O[C@@H]([C@@H]1OCC1=CC=CC=C1)C)=O)NC(OC(C)(C)C)=O | C27H35NO7
reactant | HCl | Cl | ClH
reactant | dioxane | 4.28 mmol, 1.07 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 1.20 mL | C(Cl)Cl | CH2Cl2
product | (3R,7S,8S,9R)-3-amino-7,8-bis(benzyloxy)-9-methyl-1,5-dioxonan-2-one hydrochloride | 85.0 mg, 94% | Cl.N[C@H]1C(O[C@@H]([C@@H]([C@H](COC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)=O | InChI=1S/C22H27NO5.ClH/c1-16-21(27-13-18-10-6-3-7-11-18)20(15-25-14-19(23)22(24)28-16)26-12-17-8-4-2-5-9-17;/h2-11,16,19-21H,12-15,23H2,1H3;1H/t16-,19-,20+,21+;/m1./s1
